US04680300
Diphenylcarbodiimide
1,3-Diphenylthiourea (22.8 g), triphenylphosphine (10.1 g) triethylamine (10.1 g) and carbon tetrachloride (21.6 g) were refluxed for 4 hours in methylene chloride (300 ml). The solvent was removed under vacuum. The residue was shaken with hexane (300 ml); the hexane solution was evaporated and the residue was distilled to afford the title compound as an oil bp 115°-120°/0.3 mm. Similarly, by using this procedure, but employing other 1,3-disubstituted thioureas instead of 1,3-diphenylthiourea, other carbodiimides can be made.

reactant | 1,3-Diphenylthiourea | 22.8 g | C1(=CC=CC=C1)NC(=S)NC1=CC=CC=C1 | C13H12N2S
reactant | triphenylphosphine | 10.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 21.6 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Diphenylcarbodiimide | C1(=CC=CC=C1)N=C=NC1=CC=CC=C1 | C13H10N2
